### PR TITLE
[Merged by Bors] - chore(Algebra): `coe_ringHom` -> `coe_toRingHom` 

### PR DESCRIPTION
**Pull request by smmercuri**
---

- [x] depends on: #38950 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -200,9 +204,11 @@ lemma toAlgHom_toRingHom : ((e : A₁ →ₐ[R] A₂) : A₁ →+* A₂) = e :=
   rfl
 
 /-- The two paths coercion can take to a `RingHom` are equivalent -/
-theorem coe_ringHom_commutes : ((e : A₁ →ₐ[R] A₂) : A₁ →+* A₂) = ((e : A₁ ≃+* A₂) : A₁ →+* A₂) :=
+theorem coe_toRingHom_commutes : ((e : A₁ →ₐ[R] A₂) : A₁ →+* A₂) = ((e : A₁ ≃+* A₂) : A₁ →+* A₂) :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: I don't like this name. It should probably be something like `toRingHom_toAlgHom`?

Comment (smmercuri) [reply Mathlib/Algebra/Algebra/Equiv.lean]: Agreed! This came up in the dependent PR as well and I forgot to fix it here.

File: Mathlib/RingTheory/RingInvo.lean [hunk 2]
```diff
@@ -93,9 +93,11 @@ def mk' (f : R →+* Rᵐᵒᵖ) (involution : ∀ r, (f (f r).unop).unop = r) :
 theorem involution (f : RingInvo R) (x : R) : (f (f x).unop).unop = x :=
   f.involution' x
 
-theorem coe_ringEquiv (f : RingInvo R) (a : R) : (f : R ≃+* Rᵐᵒᵖ) a = f a :=
+theorem coe_toRingEquiv (f : RingInvo R) (a : R) : (f : R ≃+* Rᵐᵒᵖ) a = f a :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/RingInvo.lean]: there's no coercion here, so why was this name even called `coe_`? How about `toRingEquiv_apply`?

Comment (smmercuri) [reply Mathlib/RingTheory/RingInvo.lean]: Yes this was wrong, fixed!

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 3]
```diff
@@ -167,13 +167,17 @@ theorem toRingEquiv_eq_coe : e.toRingEquiv = e :=
...
 
-theorem coe_ringEquiv : ((e : A₁ ≃+* A₂) : A₁ → A₂) = e := rfl
+theorem coe_toRingEquiv : ((e : A₁ ≃+* A₂) : A₁ → A₂) = e := rfl
 
-@[deprecated (since := "2026-06-21")] alias coe_ringEquiv' := coe_ringEquiv
+@[deprecated (since := "2026-05-05")] alias coe_ringEquiv := coe_toRingEquiv
+@[deprecated (since := "2026-05-05")] alias coe_ringEquiv' := coe_toRingEquiv
 
-theorem coe_ringEquiv_injective : Function.Injective ((↑) : (A₁ ≃ₐ[R] A₂) → A₁ ≃+* A₂) :=
+theorem coe_toRingEquiv_injective : Function.Injective ((↑) : (A₁ ≃ₐ[R] A₂) → A₁ ≃+* A₂) :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: How about just calling this `toRingEquiv_injective`?
since the plan is to change the coercion from the class to `.toRingEquiv` anyway

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 4]
```diff
@@ -147,9 +147,11 @@ theorem coe_mks {f : A → B} (h₁ h₂ h₃ h₄ h₅) : ⇑(⟨⟨⟨⟨f, h
   rfl
 
 @[simp, norm_cast]
-theorem coe_ringHom_mk {f : A →+* B} (h) : ((⟨f, h⟩ : A →ₐ[R] B) : A →+* B) = f :=
+theorem coe_toRingHom_mk {f : A →+* B} (h) : ((⟨f, h⟩ : A →ₐ[R] B) : A →+* B) = f :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: how about just calling this `toRingHom_mk`?

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 5]
```diff
@@ -183,16 +185,18 @@ theorem coe_fn_injective : @Function.Injective (A →ₐ[R] B) (A → B) (↑) :
 theorem coe_fn_inj {φ₁ φ₂ : A →ₐ[R] B} : (φ₁ : A → B) = φ₂ ↔ φ₁ = φ₂ :=
   DFunLike.coe_fn_eq
 
-theorem coe_ringHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+* B) := fun φ₁ φ₂ H =>
+theorem coe_toRingHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+* B) := fun φ₁ φ₂ H =>
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: `toRingHom_injective`?

File: Mathlib/Algebra/Order/Hom/Ring.lean [hunk 6]
```diff
@@ -173,9 +173,11 @@ theorem toOrderMonoidWithZeroHom_eq_coe (f : α →+*o β) : f.toOrderMonoidWith
   rfl
 
 @[simp]
-theorem coe_coe_ringHom (f : α →+*o β) : ⇑(f : α →+* β) = f :=
+theorem coe_coe_toRingHom (f : α →+*o β) : ⇑(f : α →+* β) = f :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Ring.lean]: I would just call this `coe_toRingHom`

File: Mathlib/Algebra/Order/Hom/Ring.lean [hunk 7]
```diff
@@ -185,9 +187,11 @@ theorem coe_coe_orderMonoidWithZeroHom (f : α →+*o β) : ⇑(f : α →*₀o
   rfl
 
 @[norm_cast]
-theorem coe_ringHom_apply (f : α →+*o β) (a : α) : (f : α →+* β) a = f a :=
+theorem coe_toRingHom_apply (f : α →+*o β) (a : α) : (f : α →+* β) a = f a :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Ring.lean]: `toRingHom_apply`

**Review by themathqueen — COMMENTED** [review]
I hope you see where I'm going with this...

**Comment by smmercuri** [comment]
> I hope you see where I'm going with this...

that should be all of them addressed now!

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 8]
```diff
@@ -675,7 +675,8 @@ theorem IsLocalization.algHom_ext {R A L B : Type*}
     [Algebra R A] [Algebra R L] [IsScalarTower R A L] [Algebra R B]
     {f g : L →ₐ[R] B} (h : f.comp (Algebra.algHom R A L) = g.comp (Algebra.algHom R A L)) :
     f = g :=
-  AlgHom.coe_ringHom_injective <| IsLocalization.ringHom_ext W <| RingHom.ext <| AlgHom.ext_iff.mp h
+  AlgHom.toRingHom_injective <| IsLocalization.ringHom_ext W <| RingHom.ext <|
+    AlgHom.ext_iff.mp h
```
Comment (themathqueen) [inline Mathlib/RingTheory/Localization/Basic.lean:679]: I think this would fit on the same line?

```suggestion
  AlgHom.toRingHom_injective <| IsLocalization.ringHom_ext W <| RingHom.ext <| AlgHom.ext_iff.mp h
```

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 9]
```diff
@@ -216,6 +218,11 @@ theorem mapAlgEquiv_id : mapAlgEquiv (@AlgEquiv.refl R A _ _ _) = AlgEquiv.refl
...
 
 @[simp]
+theorem toRingHom_mapAlgEquiv (f : A ≃ₐ[R] B) :
+    ↑(mapAlgEquiv f : _ ≃ₐ[R] Polynomial B) = (mapRingHom ↑f : Polynomial A →+* Polynomial B) :=
+  rfl
+
+@[deprecated toRingHom_mapAlgEquiv (since := "2026-05-05")]
 theorem mapAlgEquiv_coe_ringHom (f : A ≃ₐ[R] B) :
     ↑(mapAlgEquiv f : _ ≃ₐ[R] Polynomial B) = (mapRingHom ↑f : Polynomial A →+* Polynomial B) :=
   rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:228]: why isn't this an alias like you have for the other deprecations?

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 10]
```diff
@@ -634,11 +634,12 @@ alias coe_addMonoidHom_refl := toAddMonoidHom_refl
 /-! `RingEquiv.coe_mulEquiv_refl` and `RingEquiv.coe_addEquiv_refl` are proved above
 in higher generality -/
 
-
 @[simp]
-theorem coe_ringHom_refl : (RingEquiv.refl R : R →+* R) = RingHom.id R :=
+theorem coe_toRingHom_refl : (RingEquiv.refl R : R →+* R) = RingHom.id R :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean:638]: I think you forgot this?

```suggestion
theorem toRingHom_refl : (RingEquiv.refl R : R →+* R) = RingHom.id R :=
```

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 11]
```diff
@@ -659,10 +660,12 @@ alias coe_addMonoidHom_trans := toAddMonoidHom_trans
 in higher generality -/
 
 @[simp]
-theorem coe_ringHom_trans [NonAssocSemiring S'] (e₁ : R ≃+* S) (e₂ : S ≃+* S') :
+theorem coe_toRingHom_trans [NonAssocSemiring S'] (e₁ : R ≃+* S) (e₂ : S ≃+* S') :
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean:663]: and this
```suggestion
theorem toRingHom_trans [NonAssocSemiring S'] (e₁ : R ≃+* S) (e₂ : S ≃+* S') :
```

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 12]
```diff
@@ -167,13 +167,17 @@ theorem toRingEquiv_eq_coe : e.toRingEquiv = e :=
...
 
-theorem coe_ringEquiv : ((e : A₁ ≃+* A₂) : A₁ → A₂) = e := rfl
+theorem coe_toRingEquiv : ((e : A₁ ≃+* A₂) : A₁ → A₂) = e := rfl
 
-@[deprecated (since := "2026-06-21")] alias coe_ringEquiv' := coe_ringEquiv
+@[deprecated (since := "2026-05-05")] alias coe_ringEquiv := coe_toRingEquiv
+@[deprecated (since := "2026-05-05")] alias coe_ringEquiv' := coe_toRingEquiv
 
-theorem coe_ringEquiv_injective : Function.Injective ((↑) : (A₁ ≃ₐ[R] A₂) → A₁ ≃+* A₂) :=
+theorem toRingEquiv_injective : Function.Injective (toRingEquiv : (A₁ ≃ₐ[R] A₂) → A₁ ≃+* A₂) :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean:175]: why not keep the coercion here?
```suggestion
theorem toRingEquiv_injective : Function.Injective ((↑) : (A₁ ≃ₐ[R] A₂) → A₁ ≃+* A₂) :=
```

File: Mathlib/Algebra/Ring/Equiv.lean (hunk 10 above)
Comment (smmercuri) [reply Mathlib/Algebra/Ring/Equiv.lean]: `toRingHom_refl` is already taken, as `(refl R).toRingHom = RingHom.id R`. Perhaps the latter should also be renamed to `refl_toRingHom`?

Comment (smmercuri) [reply Mathlib/Algebra/Ring/Equiv.lean]: Although that creates a deprecation cycle ...

Comment (themathqueen) [reply Mathlib/Algebra/Ring/Equiv.lean]: Oh, I see, maybe name it `toRingHom_refl'` and add a note "-- TODO: remove lemma when we remove the `RingHom.ofClass` coercion"?

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 13]
```diff
@@ -777,10 +773,12 @@ theorem toRingHom_injective : Function.Injective (toRingHom : R ≃+* S → R 
...
-theorem coe_ringHom_inj_iff {R S : Type*} [NonAssocSemiring R] [NonAssocSemiring S]
+theorem toRingHom_inj_iff {R S : Type*} [NonAssocSemiring R] [NonAssocSemiring S]
     (f g : R ≃+* S) : f = g ↔ (f : R →+* S) = g :=
   ⟨fun h => by rw [h], fun h => ext <| RingHom.ext_iff.mp h⟩
 
+@[deprecated (since := "2026-05-05")] alias coe_ringHom_inj_iff := toRingHom_inj_iff
+
 /-- The two paths coercion can take to a `NonUnitalRingEquiv` are equivalent -/
 @[simp, norm_cast]
 theorem toNonUnitalRingHom_commutes (f : R ≃+* S) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean:792]: just a note for the future: all these `_commutes` lemmas here should get a rename

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 14]
```diff
@@ -658,11 +659,6 @@ alias coe_addMonoidHom_trans := toAddMonoidHom_trans
 /-! `RingEquiv.coe_mulEquiv_trans` and `RingEquiv.coe_addEquiv_trans` are proved above
 in higher generality -/
 
-@[simp]
-theorem coe_ringHom_trans [NonAssocSemiring S'] (e₁ : R ≃+* S) (e₂ : S ≃+* S') :
-    (e₁.trans e₂ : R →+* S') = (e₂ : S →+* S').comp ↑e₁ :=
-  rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean:664]: why not keep this here? but just rename?

Comment (smmercuri) [reply Mathlib/Algebra/Ring/Equiv.lean:664]: I had renamed and moved it down to `toRingHom_refl'`, but probably makes sense to rename and keep it where it was

File: Mathlib/Algebra/Ring/Equiv.lean
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean]: let's instead rename this one to `toRingHom_trans'` and add the todo here?

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 15]
```diff
@@ -795,22 +802,26 @@ abbrev toMonoidHom (e : R ≃+* S) : R →* S :=
 abbrev toAddMonoidHom (e : R ≃+* S) : R →+ S :=
   e.toRingHom.toAddMonoidHom
 
+-- TODO : rename lemma when we remove the RingHom.ofClass coercion
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean]: I wouldn't say rename _after_ we remove it, we can rename it whenever. I just meant not for this PR.

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 16]
```diff
@@ -658,11 +659,14 @@ alias coe_addMonoidHom_trans := toAddMonoidHom_trans
 /-! `RingEquiv.coe_mulEquiv_trans` and `RingEquiv.coe_addEquiv_trans` are proved above
 in higher generality -/
 
+-- TODO: remove lemma when we remove the RingHom.ofClass coercion
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean]: you forgot to move this too

Comment (smmercuri) [reply Mathlib/Algebra/Ring/Equiv.lean]: oops!

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
